US07547696B2
c.) 5-Dimethylaminoisatoic anhydride
To the mixture of 8.9 g of 2-amino-5-dimethylaminobenzoic acid in 60 mL of dioxane, under stirring and external cold water cooling 10 mL of diphosgene is added dropwise. The mixture is heated under reflux conditions for 4 hours. From the cold reaction mixture the solid material is filtered off, washed with 50 mL of ether. The product is stirred for 5 minutes in the mixture of 50 mL of methanol and 5 mL of triethylamine, filtered off, washed with 30 mL of methanol. After drying 7 g of the title product is obtained, m.p.: 258° C.

reactant | 2-amino-5-dimethylaminobenzoic acid | 8.9 g | NC1=C(C(=O)O)C=C(C=C1)N(C)C | C9H12N2O2
reactant | water | 10 mL | O | H2O
reactant | diphosgene | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 5-Dimethylaminoisatoic anhydride | CN(C1=CC=C2C(C(=O)OC(N2)=O)=C1)C | C10H10N2O3
